US05767256
2,2-dimethyl-4-benzyloxycarbonylbutyric acid
To a mixture of 3 g (0.021 mol) of 2.2-dimethylglutaric anhydride, 2.0 ml (0.019 mol) of benzyl alcohol in 10 ml of CH2Cl2 was added 100 mg of DMAP and 3.4 ml of pyridine. The resulting solution was stired at room temperature for 4 h. After additional 2.2-dimethyl-glutaric acid (0.7 g, 4.9 mmol) was added, the mixture continued to be stirred overnight, then poured into 0.5M H2SO4 (aq.) solution and extracted with CH2Cl2. The organic layer was washed with brine, dried over Na2SO4 and filtered. Concentration followed by purification by flash chromatography on silica gel using EtOAc/hexane (1:1) as the irrigant gave 3.5 g of desired product in 66% yield and 1.2 g of isomer in 23% yield.

reactant | 2.2-dimethylglutaric anhydride | 0.021 mol, 3 g | CC1(C(=O)OC(CC1)=O)C | C7H10O3
reactant | benzyl alcohol | 0.019 mol, 2.0 ml | C(C1=CC=CC=C1)O | C7H8O
reactant | 2.2-dimethyl-glutaric acid | 4.9 mmol, 0.7 g | CC(C(=O)O)(CCC(=O)O)C | C7H12O4
reactant | H2SO4 | 0.5M | OS(=O)(=O)O | H2O4S
solvent | CH2Cl2 | 10 ml | C(Cl)Cl | CH2Cl2
catalyst | DMAP | 100 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | pyridine | 3.4 ml | N1=CC=CC=C1 | C5H5N
product | 2,2-dimethyl-4-benzyloxycarbonylbutyric acid | 3.5 g, 66% yield | CC(C(=O)O)(CCC(=O)OCC1=CC=CC=C1)C | C14H18O4
